US07291632B2
2,6-Difluoro-N-(3-(N-methyl-N-(1-methylpiperidin-4-yl)amino)phenyl)benzamide dihydrochloride
Combine 1-methyl-4-(N-(3-aminophenyl)-N-methylamino)piperidine (Preparation 11, 101 mg, 0.307 mmol), dichloromethane (6 mL) and pyridine (0.125 mL, 1.535 mmol) at 0° C. Add 2,6-difluorobenzoyl chloride (0.048 mL, 0.384 mmol) neat and continue stirring for 1 hr. Dilute with dichloromethane (5 mL) and wash with sodium hydroxide (1N aq., 2×8 mL). Combine the organic layers, dry over magnesium sulphate, filter under reduced pressure and concentrate to dryness. Purify by flash chromatography, eluting with a 20/1 mixture of dichloromethane/(2N ammonia in methanol) to give the free base of the title compound (88 mg, 80%). Following a salt formation method similar to that described in Example 1 gives the title compound as a yellow solid (89 mg): mass spectrum (free base, ion spray): m/z=360.1 (M+1), 1H NMR (free base, CDCl3): 7.56 (bs, 1H), 7.44–7.34 (m, 2H), 7.20 (t, J=8.2 Hz, 1H), 7.00 (t, J=8.2 Hz, 2H), 6.78 (d, J=8.0 Hz, 1H), 6.59 (dd, J=2.2 Hz, 8.2 Hz, 1H), 3.71–3.63 (bm, 1H), 3.14–3.04 (bm, 2H), 2.82 (s, 3H), 2.41 (bs, 3H), 2.11–1.97 (bm, 2H), 1.79 (bd, J=13 Hz, 2H).

reactant | 1-methyl-4-(N-(3-aminophenyl)-N-methylamino)piperidine | 0.307 mmol, 101 mg | CN1CCC(CC1)N(C)C1=CC(=CC=C1)N | C13H21N3
reactant | pyridine | 1.535 mmol, 0.125 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,6-difluorobenzoyl chloride | 0.384 mmol, 0.048 mL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 2,6-Difluoro-N-(3-(N-methyl-N-(1-methylpiperidin-4-yl)amino)phenyl)benzamide dihydrochloride | 88 mg, 80% | Cl.Cl.FC1=C(C(=O)NC2=CC(=CC=C2)N(C2CCN(CC2)C)C)C(=CC=C1)F | InChI=1S/C20H23F2N3O.2ClH/c1-24-11-9-15(10-12-24)25(2)16-6-3-5-14(13-16)23-20(26)19-17(21)7-4-8-18(19)22;;/h3-8,13,15H,9-12H2,1-2H3,(H,23,26);2*1H
